US08404679B2
4-{(3SR,4RS)-3-(3,4-Dichloro-phenyl)-4-[(4-methoxy-3-trifluoromethyl-benzoyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid ethyl ester
In analogy to the procedure described for the synthesis of example 88, the title compound 4-{(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(4-methoxy-3-trifluoromethyl-benzoyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid ethyl ester was prepared from N-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide instead of N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using ethyl chloroformate instead of 4-fluorobenzoyl chloride and was obtained as a light brown foam. MS m/e: 630.3 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H28Cl2F3N3O3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-{(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(4-methoxy-3-trifluoromethyl-benzoyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)C(=O)N1CC(C(C1)N(C)C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C1=CC(=C(C=C1)Cl)Cl | C29H32Cl2F3N3O5
